US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropenyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (76 mg) is dissolved in ethanol (5 ml), and thereto is added 10% palladium-carbon (15 mg) and the mixture is stirred under hydrogen atmosphere for 1.5 hours. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure to give ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (70 mg). MS (m/z): 759 [M+H]+

reactant | Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropenyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 76 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)C2=NC(=CC=C2OC)C(=C)C)C=C(C1)C(F)(F)F)(F)F | C36H33F9N4O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 15 mg | [C].[Pd]
product | ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 70 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)C2=NC(=CC=C2OC)C(C)C)C=C(C1)C(F)(F)F)(F)F | C36H35F9N4O4
